Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Benadryl
 
Attending: ___.
 
Chief Complaint:
Hematuria following bilateral nephrostomy tube placement
 
Major Surgical or Invasive Procedure:
Bilateral nephrostomy placement by interventional radiology

 
History of Present Illness:
This is a ___ yo patient with PMH significant for uterine CA, 
chronic kidney disease, type 2 DM, and urinary incontinence 
presenting from ___ s/p bilaterally nephrostomy tube placement 
resulting in hematuria.  She has a history of uterine cancer s/p 
radiation.  She then developed a bladder fistula which required 
b/l tube placement.  After the procedure 400cc of cherry-colored 
urine was voided from the R and 300cc from the left.  She's 
admitted to medicine for further observation, pain control 
management and hemodynamic control.  
.
.
On arrival to the medical floor, patient was stable and 
comfortable.  Vitals signs were T- 97.2, P- 80, BP- 179/85, 
SaO2- 97% on RA.  

Review of systems- Patient denies headache, nausea, vomiting, 
fever, chills, chest pain, or shortness of breath.  

 
Past Medical History:
1.  Diabetes mellitus type 2 with diabetic nephropathy
2.  Anemia
3.  Depression
4.  Hypertension
5.  Urinary incontinence
6.  Low back pain
7.  Osteoarthritis
8.  Uterine Cancer- diagnosed ___ 
 
Social History:
___
Family History:
Cancer in brother ("abdomen"), daughter (thyroid).  DM in 
sister.
 
Physical Exam:
VITAL SIGNS:
T- 97.2, P- 80, BP- 179/85, SaO2- 97% on RA
.
.
PHYSICAL EXAM
GENERAL: Pleasant, well appearing female in NAD
HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No 
scleral icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No 
LAD, No thyromegaly. 
CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, 
rubs or ___.
LUNGS: CTAB, good air movement biaterally.  Good respiratory 
effort
ABDOMEN: Hypoactive bowel sounds.  Soft.  Non-tender, 
non-distended. Bandages for nephrostomy sites on b/l flanks.
EXTREMITIES: Trace edema in b/l ___. No calf pain 2+ dorsalis 
pedis/ posterior tibial pulses.
SKIN: No rashes/lesions, ecchymoses. 
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout. ___ reflexes, 
equal ___. Normal coordination. Gait assessment deferred
PSYCH: Listens and responds to questions appropriately, pleasant
 
Pertinent Results:
STUDIES:  Perc nephrostomy report- Bilateral moderate 
hydronephrosis and placement of bilateral percutaneous 
nephrostomy catheters with the catheters connected to a bag for 
external drainage. 

___ 05:30PM BLOOD WBC-6.8 RBC-3.68* Hgb-10.3* Hct-31.9* 
MCV-87 MCH-28.0 MCHC-32.3 RDW-15.4 Plt ___
___ 07:15AM BLOOD WBC-6.3 RBC-3.62* Hgb-10.1* Hct-31.3* 
MCV-87 MCH-27.9 MCHC-32.2 RDW-15.4 Plt ___
___ 07:50AM BLOOD ___
___ 05:30PM BLOOD ___
___ 05:30PM BLOOD Plt ___
___ 07:15AM BLOOD Plt ___
___ 05:30PM BLOOD Glucose-117* UreaN-63* Creat-2.5* Na-142 
K-4.2 Cl-107 HCO3-27 AnGap-12
___ 07:15AM BLOOD Glucose-97 UreaN-59* Creat-2.4* Na-141 
K-3.7 Cl-106 HCO3-27 AnGap-12
___ 05:30PM BLOOD Calcium-9.5 Phos-3.5 Mg-2.1
___ 07:15AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.___SSESSMENT AND PLAN: ___ yo patient with PMH significant for 
uterine CA, chronic kidney disease, type 2 DM, and urinary 
incontinence presenting from ___ s/p bilaterally nephrostomy tube 
placement resulting in hematuria.  Admitted for observation

1.  Hematuria- Patient is s/p b/l nephrostomy placement 
performed by ___.  Admitted to medicine for observation of 
hemodynamics and hematuria as well as pain control. Overnight, 
there were no issues with pain or worsened hematuria.  Patient 
was comfortable in morning and fluid in nephrostomy output bags 
was much lighter in color.  ___ as well as the medicine attending 
evaluated the patient and agreed on discharge.  Urology 
recommended straight catheter BID only if leakage becomes a 
problem.  The patient and daughter were instructed on wound care 
for b/l bandages.  ___ will assist with nephrostomy tubes.   

2.  DM- Patient was started on a sliding scale because she 
received contrast during the procedure resulting in her 
metformin being held for 3 days (until ___.  Sugars 
were monitored during visit and stayed near patients baseline.  

3. Pain- No issues with pain during admission to medicine

4. Wound care- Patient had bilateral flank bandages that were 
not to be changed for 3 days s/p procedure.  Wound care nurse 
visited with patient and daughter with instructions on wound 
care at home.    

5. BP- Initially BP's were elevated after procedure (SBP in the 
200s s/p nitro paste).  Upon transfer to floor BP lower 
(179/85).  Continued to trend down but still remained elevated 
(SBP 150s-160s).  Patient on a low dose of lisinopril.  
Scheduled to see nephrologist shortly after discharge.  
 
Medications on Admission:
ALLOPURINOL - 100 mg Tablet - one Tablet(s) by mouth daily
CIPROFLOXACIN - 250 mg Tablet - one Tablet(s) by mouth morning
and evening for three days
COLCHICINE - 0.6 mg Tablet - 1 Tablet(s) by mouth weekly
DARBEPOETIN ALFA IN POLYSORBAT [ARANESP (POLYSORBATE)] - 
(receiving in ___ clinic) - 100 mcg/0.5 mL Syringe - inject s/c
once a month
ETHACRYNIC ACID [EDECRIN] - 25 mg Tablet - four Tablet(s) by
mouth daily
FLUTICASONE [FLONASE] - 50 mcg Spray, Suspension - 2 sprays both
nostrils daily
LISINOPRIL - 2.5 mg Tablet - 1 Tablet(s) by mouth once a day
METFORMIN - 500 mg Tablet - 1 Tablet(s) by mouth daily at pm
MIRTAZAPINE - 30 mg Tablet - 1 Tablet(s) by mouth daily
NYSTATIN - 100,000 unit/gram Powder - apply to affected area
twice a day
SOLIFENACIN [VESICARE] - 5 mg Tablet - 1 Tablet(s) by mouth 
daily
 
Discharge Medications:
1. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Lisinopril 5 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
3. Mirtazapine 15 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
4. Ethacrynic Acid 25 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).  
5. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
6. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical BID 
(2 times a day).  
7. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO once a week.  

8. Aranesp (Polysorbate) 100 mcg/0.5 mL Syringe Sig: One (1) 
injection Injection once a month.  
9. Metformin 500 mg Tablet Sig: One (1) Tablet PO qpm.  
10. Mirtazapine 30 mg Tablet Sig: One (1) Tablet PO once a day.  

11. Nystatin 100,000 unit/g Powder Sig: One (1) application 
Topical twice a day.  
12. Vesicare 5 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Tylenol Extra Strength 500 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for pain.  
14. Calcium Carbonate-Vit D3-Min  Oral
15. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: Two (2) 
Tablet PO twice a day.  
16. FiberCon 625 mg Tablet Sig: Two (2) Tablet PO twice a day.  
17. Surgilube Gel Sig: One (1) application Topical once a day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:  Hematuria- s/p bilateral nephrostomy placement

Secondary:  Urinary incontinence
            Diabetes Mellitus
            Diabetic nephropathy
            Hypertension
            History of uterine cancer

 
Discharge Condition:
Good.  Vital signs stable

 
Discharge Instructions:
You were admitted to the medicine service after your bilateral 
nephrostomy placement by interventional radiology on ___.  You 
had some blood in your urine that ___ wanted us to keep an eye on 
overnight.  During your stay, you stated you were comfortable 
and denied any pain.  The color of your urine improved overnight 
and looked normal at the time of discharge.  You were seen and 
examined by the medicine team as well as the interventional 
radiology team and we both agree that you were stable for 
discharge home with services. 

The following medication changes were made:  None

Follow-up with Dr. ___ urologist) in ___ weeks- 
Follow-up with ___ your primary care 
physician ___ ___ weeks- ___
You have an appointment with Dr. ___ on 
___

Please contact your physician or emergency department if you 
have any of the following symptoms:  gross blood in your urine, 
shortness of breath, chest pain, nausea, vomiting, blood in your 
stools, fevers, chills, or any other concerning symptoms.
 
Followup Instructions:
___